US05994378
tert-Butyl 2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-4-[3-(ethoxycarbonyl)propoxy]phenoxyacetate (200 mg) was dissolved in a mixed solvent of acetnitrile (10 ml) and acetone (1 ml) and methanesulfonic acid (62 mg) was added. The resulting solution was stirred at 80° C. for two hours. The reaction mixture was concentrated and diluted with water and neutralized with sodium hydrogen carbonate solution. The mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine and was dried over magnesium sulfate. After concentration, the product was crystallized with a mixed solvent of diisopropyl ether and n-hexane (1:2), filtered and dried to give 2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-4-[3-(ethoxycarbonyl)propoxy]-phenoxyacetic acid (117 mg).

reactant | tert-Butyl 2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-4-[3-(ethoxycarbonyl)propoxy]phenoxyacetate | 200 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OCC(=O)OC(C)(C)C)C=CC(=C2)OCCCC(=O)OCC | C34H41NO8S
reactant | methanesulfonic acid | 62 mg | CS(=O)(=O)O | CH4O3S
solvent | acetnitrile | 10 ml | C(C)#N | C2H3N
solvent | acetone | 1 ml | CC(=O)C | C3H6O
product | 2-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxy]methyl}-4-[3-(ethoxycarbonyl)propoxy]-phenoxyacetic acid | 117 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(OCC(=O)O)C=CC(=C2)OCCCC(=O)OCC | C30H33NO8S
